US06495604B1
4-Benzyloxycarbonylamino-3-chlorobenzoic acid (0.80 g) was dissolved in N,N-dimethylformamide (24.0 ml) and admixed at room temperature with t-butyl glycinate (0.44 g) and triethylamine (0.77 ml). Diethyl cyanophosphate (0.43 ml) was added with ice-cooling, and the mixture was stirred under a nitrogen atmosphere at room temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate and washed with water. The ethyl acetate layer was separated and the aqueous layer was extracted with ethyl acetate. The ethyl acetate layers were combined and washed three times with water and then twice with saturated brine, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was crystallized from a mixture of ethyl acetate and diisopropyl ether to yield t-butyl N-(4-benzyloxycarbonylamino-3-chlorobenzoyl)glycinate (0.93 g) as white crystals.

reactant | 4-Benzyloxycarbonylamino-3-chlorobenzoic acid | 0.80 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C(=O)O)C=C1)Cl | C15H12ClNO4
reactant | t-butyl glycinate | 0.44 g | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | Diethyl cyanophosphate | 0.43 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 24.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl N-(4-benzyloxycarbonylamino-3-chlorobenzoyl)glycinate | 0.93 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C(=O)NCC(=O)OC(C)(C)C)C=C1)Cl | C21H23ClN2O5
